US05081136
Preparation of [[1-(4-fluorophenyl)-4-methyl-1,2,3-triazol-5-yl]-methyl]-triphenylphosphonium chloride
A solution of 1-(4-fluorophenyl)-4-methyl-5-chloromethyl-1,2,3-triazole (754 mg; 3.34 mmol), prepared as described in example 7, and triphenylphosphine (1.1 g; 4.18 mmol) in toluene (33 ml) was heated at 80° C. for 21 hours. Then, the reaction mixture was cooled to room temperature and kept at this temperature overnight. The precipitate was filtered by washing with a little amount of toluene and with ethyl ether. The title compound was obtained as a solid.

reactant | 1-(4-fluorophenyl)-4-methyl-5-chloromethyl-1,2,3-triazole | 3.34 mmol, 754 mg | FC1=CC=C(C=C1)N1N=NC(=C1CCl)C | C10H9ClFN3
reactant | triphenylphosphine | 4.18 mmol, 1.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 33 ml | C1(=CC=CC=C1)C | C7H8
product | [[1-(4-fluorophenyl)-4-methyl-1,2,3-triazol-5-yl]-methyl]-triphenylphosphonium chloride | [Cl-].FC1=CC=C(C=C1)N1N=NC(=C1C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | InChI=1S/C28H24FN3P.ClH/c1-22-28(32(31-30-22)24-19-17-23(29)18-20-24)21-33(25-11-5-2-6-12-25,26-13-7-3-8-14-26)27-15-9-4-10-16-27;/h2-20H,21H2,1H3;1H/q+1;/p-1
